US09359338B2
Step 1: Synthesis of tert-butyl 4-(4-nitro-2-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate
Add 2-bromo-5-nitrobenzotrifluoride (250 mg, 0.926 mmol) to dioxane (3 mL), then add tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (207 mg, 0.926 mmol), tetrakis(triphenylphosphine)palladium [Pd(PPh3)4, 35 mg, 0.03 mmol] and saturated sodium bicarbonate solution (1 mL) under nitrogen atmosphere. Stir the reaction mixture overnight at 120° C. TLC (PE:EtOAc=5:1) shows the reaction is complete. Partition the mixture between EtOAc and water, dry the organic layer over sodium sulfate, filter and concentrate the filtrate under reduced pressure. Purify the residue by flash chromatography (silica gel, PE:EtOAc=5:1) to afford the desired product (289 mg, 84%).

reactant | 2-bromo-5-nitrobenzotrifluoride | 0.926 mmol, 250 mg | BrC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3BrF3NO2
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.926 mmol, 207 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(4-nitro-2-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 289 mg, 84% | [N+](=O)([O-])C1=CC(=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C17H19F3N2O4
